US06787534B2
3-Carbethoxy-4-hydroxy-8-bromoquinoline
A mixture of 50 g (0.291 mol) of 2-bromoaniline and 63 g (0.291 mol) of diethyl ethoxymethylenemalonate was heated at 100° C. under a reduced pressure for 3 hours, followed by heating at 200° C. for further 12 hours. After the completion of the reaction, the solid matter in the resulting reaction mixture was washed with ethyl acetate, and the crystals were collected by filtration and dried, to give 50 g of the title compound.

reactant | 2-bromoaniline | 0.291 mol, 50 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | diethyl ethoxymethylenemalonate | 0.291 mol, 63 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | 3-Carbethoxy-4-hydroxy-8-bromoquinoline | 50 g | C(=O)(OCC)C=1C=NC2=C(C=CC=C2C1O)Br | C12H10BrNO3
